US05523278
Preparation of Methyl α-methyl-5-nitro-1,2-benzisothiazole-3-acetate
Methyl α-methyl-1,2-benzisothiazole-3-acetate (15.96 g, 72.13 mmol) is added dropwise to nitric acid (90%, 100 mL) while maintaining the reaction mixture temperature below 5° C. The reaction mixture is stirred overnight, poured onto ice and extracted with methylene chloride. The organic extracts are combined, washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain an orange oil. Column chromatography of the oil using silica gel and ether/hexanes solutions gives the title product as an orange solid, mp 88°-90° C.

reactant | Methyl α-methyl-1,2-benzisothiazole-3-acetate | 72.13 mmol, 15.96 g | CC(C(=O)OC)C1=NSC2=C1C=CC=C2 | C11H11NO2S
reactant | nitric acid | 100 mL | [N+](=O)(O)[O-] | HNO3
product | Methyl α-methyl-5-nitro-1,2-benzisothiazole-3-acetate | CC(C(=O)OC)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C11H10N2O4S
